US05229395
A mixture of 2-chloro-5-methoxybenzoic acid (14.0 g, 80.0 mmol), potassium carbonate (13.8 g, mol), powdered copper (1.5 g), cuprous oxide (1.5 g), and p-toluidine (9.4 g, 88.0 mmol) in 2-ethoxyethanol (120 ml) is heated at 140° C. for 3 hours. After cooling, the dark mixture is acidified to about pH 2 with 1N hydrochloric acid, and then diluted with water (600 ml). The solid precipitates are collected by filtration, dissolved in hot 10% sodium carbonate solution, charcoaled, and filtered through a Celite bed. The filtrate is acidified with concentrated hydrochloric acid to about pH 2, and the mixture is extracted with ethyl ether (5×100 ml). The combined extracts are washed with 1N hydrochloric acid (200 ml) and water (2×200 ml), dried over sodium sulfate, concentrated in vacuo, and the solid residue is recrystallized from ethanol-water to give N-(p-tolyl)-5-methoxyanthranilic acid (13.9 g, 68% yield), mp 160° -161° C.

reactant | 2-chloro-5-methoxybenzoic acid | 80.0 mmol, 14.0 g | ClC1=C(C(=O)O)C=C(C=C1)OC | C8H7ClO3
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluidine | 88.0 mmol, 9.4 g | NC1=CC=C(C=C1)C | C7H9N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 2-ethoxyethanol | 120 ml | C(C)OCCO | C4H10O2
solvent | water | 600 ml | O | H2O
catalyst | copper | 1.5 g | [Cu] | Cu
product | N-(p-tolyl)-5-methoxyanthranilic acid | 13.9 g, 68% yield | C1(=CC=C(C=C1)NC=1C(C(=O)O)=CC(=CC1)OC)C | C15H15NO3
